US07115602B2
7-(4-tert-Butylcyclohexyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 350 mg (0.90 mmol) crude 4-tert-butyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide, 140 mg (0.90 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used. The isomers are separated by chromatography.

reactant | 4-tert-butyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide | 0.90 mmol, 350 mg | C(C)(C)(C)C1CCC(CC1)C(=O)NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C22H36N4O2
reactant | phosphoric trichloride | 0.90 mmol, 140 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(4-tert-Butylcyclohexyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(C)(C)C1CCC(CC1)C1=NC(=C2C(NC(=NN21)C2CCCC2)=O)CC | C22H34N4O
